US04739056
Chloroacetyl chloride (40 mL, 500 mmol) was added dropwise to a solution of cyclohexanol (52 mL, 500 mmol) and triethylamine (77 mL, 550 mmol) in diethyl ether cooled to below 5° C. Upon completion of the addition, the mixture was filtered to remove triethylamine hydrochloride. The filtrate was washed twice with 1M HCl and twice with brine, and was then dried over MgSO4, filtered and evaporated to afford cyclohexyl chloroacetate (86.5 g, 490 mmol, 98%) as a colorless liquid, bp 100° C./5 mm. The chloroacetate (79.5 g, 450 mmol) was added dropwise to a suspension of sodium azide (36.6 g, 563 mmol) in dimethylformamide (60 mL) maintained below 20° C. The mixture was stirred at room temperature overnight, and then was poured into water (200 mL), and the solution was extracted with ether (4×200 mL). The combined organic extracts were washed with brine, then dried, filtered and evaporated to yield cyclohexyl azidoacetate (78.4 g, 428 mmol, 95%) as a colorless liquid, b.p. 85°-90° C. (0.1 mm). Catalytic reduction of the azide with hydrogen over 10% palladium on carbon in ethanol afforded cyclohexyl glycinate, treatment of which with dry HCl afforded glycine cyclohexyl ester HCl, m.p. 144°-145° C., in quantitative yield after crystallization from diethyl ether.

reactant | Chloroacetyl chloride | 500 mmol, 40 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | cyclohexanol | 500 mmol, 52 mL | C1(CCCCC1)O | C6H12O
reactant | triethylamine | 550 mmol, 77 mL | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | C(C)OCC | C4H10O
product | cyclohexyl chloroacetate | 490 mmol, 86.5 g, 98% | ClCC(=O)OC1CCCCC1 | C8H13ClO2
